US07067517B2
Methyl-phenyl-carbamic acid 4-[1,2,4]triazol-1-ylmethyl-phenyl ester
The title compound was prepared as its TFA salt in 27% yield as an oil using methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester and 1,2,4-triazole. 1H NMR (400 MHz; CDCl3): δ 3.42 (br s, 3H), 5.34 (s, 2H), 7.15 (br d, 2H), 7.26–7.43 (m, 7H), 8.10 (s, 1H), 8.38 (s, 1H); HPLC-MS: m/z=309.1 (M+1); Rt=2.74 min.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester | OCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C15H15NO3
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | Methyl-phenyl-carbamic acid 4-[1,2,4]triazol-1-ylmethyl-phenyl ester | 27% yield | N1(N=CN=C1)CC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C17H16N4O2
